US04336378
To a refluxing suspension of 22.8 g. (0.60 mole) of lithium aluminum hydride in 1100 ml. of tetrahydrofuran under nitrogen, there is added dropwise over approximately 1 to 11/2 hours a warm solution of 56 g. (0.15 mole) of N,N-dimethyl-2-(5-methyl-3-phenyl-4-isoxazolyl)-3-indoleglyoxylamide in 2250 ml. of tetrahydrofuran. The mixture is refluxed for 3 hours after addition is completed. The resulting suspension is cooled to -10° to +5° C. and a solution of 270 ml. of tetrahydrofuran and 90 ml. of water is added dropwise with the temperature maintained between -10° and +5° C. The suspension is stirred for approximately 1 hour without a cooling bath and then allowed to stand overnight without stirring. The mixture is filtered, the filtrate evaporated in vacuo and the residue dissolved in methylene chloride. The methylene chloride is washed with water, dried and evaporated in vacuo. The residue is crystallized from ether to give 2-(5-methyl-3-phenyl-4-isoxazolyl)-3-(dimethylaminoethyl)-indole; m.p. 141.5° to 143.5° C.

reactant | lithium aluminum hydride | 0.60 mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | N,N-dimethyl-2-(5-methyl-3-phenyl-4-isoxazolyl)-3-indoleglyoxylamide | 0.15 mole | CN(C(C(=O)C1=C(NC2=CC=CC=C12)C=1C(=NOC1C)C1=CC=CC=C1)=O)C | C22H19N3O3
solvent | water | O | H2O
product | 2-(5-methyl-3-phenyl-4-isoxazolyl)-3-(dimethylaminoethyl)-indole | CC1=C(C(=NO1)C1=CC=CC=C1)C=1NC2=CC=CC=C2C1CCN(C)C | C22H23N3O
